US04381301
1.9 g of 4-chloroacetyl-9,10-dihydro-4H-thieno[3,4-b][1,5]benzodiazepin-10-one, 0.55 g of pyrrolidine, 0.85 g of ground sodium carbonate and 15 ml of absolute ethanol are heated at the boil for 2 hours, and the resulting hot solution is filtered and concentrated in vacuo. The obtained residue is dissolved in methylene chloride; the organic solution is washed at pH 7 with water and then concentrated; 1.4 g of 9,10-dihydro-4-(pyrrolidinoacetyl)-4H-thieno[3,4-b][1,5]benzodiazepin-10-one are thus obtained.

reactant | 4-chloroacetyl-9,10-dihydro-4H-thieno[3,4-b][1,5]benzodiazepin-10-one | 1.9 g | ClCC(=O)N1C=2C(C(NC3=C1C=CC=C3)=O)=CSC2 | C13H9ClN2O2S
reactant | pyrrolidine | 0.55 g | N1CCCC1 | C4H9N
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 9,10-dihydro-4-(pyrrolidinoacetyl)-4H-thieno[3,4-b][1,5]benzodiazepin-10-one | 1.4 g | N1(CCCC1)CC(=O)N1C=2C(C(NC3=C1C=CC=C3)=O)=CSC2 | C17H17N3O2S
